US07173004B2
14-tert-butoxycarbonylamino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]-nonadec-7-ene-4-carboxylic acid ethyl ester (1.10 g, 1.77 mmol) was dissolved in the mixed solvent system; THF (18 mL), methanol (8 mL), and water (2 mL). Powdered lithium hydroxide hydrate (744 mg, 17.7 mmol) was added. The light yellow slurry was stirred at rt under N2 for 24 h, and then concentrated in vacuo. The residue was partitioned between ether and water. The ether phase was discarded, and the aqueous phase was treated with 4N HCl until the pH was 4. This acidic solution was extracted with ether four times. The combined ether extracts were dried (MgSO4) and concentrated in vacuo to give 0.95 g (90%) of 14-tert-butoxycarbonylamino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]-nonadec-7-ene-4-carboxylic acid as a white solid: 1H NMR (300 MHz, CD3Cl3) δ 1.30 (s, 9H), 1.34–1.46 (m, 4H), 1.52–1.68 (m, 2H), 1.84 (m, 2H), 2.08–2.58 (m, 6H), 2.78–2.87 (m, 1H), 4.07 (m, 1H), 4.32 (d, J=11.3 Hz, 1H), 4.41 (m, 1H), 4.79 (t, J=7.3 Hz, 1H), 5.14 (t, J=9.5 Hz, 1H), 5.23 (d, J=7.3 Hz, 1H), 5.60 (q, J=8.8 Hz, 1H), 5.86 (s, 1H), 7.08 (s, 1H), 7.22 (d, J=6.2 Hz, 1H), 7.48 (t, J=7.7 Hz, 1H), 7.64 (t, J=8.0 Hz, 1H), 7.72 (d, J=8.1 Hz, 1H), 7.94 (d, J=5.9 Hz, 1H), 8.17 (s, J=8.4 Hz, 1H). LC-MS (Method A, retention time: 3.32 min), MS m/z 593 (M++1)

reactant | 14-tert-butoxycarbonylamino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]-nonadec-7-ene-4-carboxylic acid ethyl ester | 1.77 mmol, 1.10 g | C(C)OC(=O)C12NC(C3CC(CN3C(C(CCCCCC=CC2C1)NC(=O)OC(C)(C)C)=O)OC1=NC=CC2=CC=CC=C12)=O | C34H44N4O7
reactant | THF | 18 mL | C1CCOC1 | C4H8O
reactant | methanol | 8 mL | CO | CH4O
reactant | lithium hydroxide hydrate | 17.7 mmol, 744 mg | O.[OH-].[Li+]
solvent | water | 2 mL | O | H2O
product | 14-tert-butoxycarbonylamino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]-nonadec-7-ene-4-carboxylic acid | 0.95 g, 90% | C(C)(C)(C)OC(=O)NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)OC1=NC=CC2=CC=CC=C12)=O)C(=O)O | C32H40N4O7
